US07750034B2
To a solution of tert-butyl cis-3,4-diaminopyrrolidine-1-carboxylate (the product in Intermediate 11, Step C; 140 mg) and triethylamine (0.29 mL) in dichloromethane (10 mL) was added phosgene (20% in benzene, 0.4 mL) at 0° C. and the reaction mixture allowed to warm up to room temperature. The solution was evaporated after stirring for one h and purified on a Biotage Horizon® system (silica gel, 10-20% gradient of methanol containing 10% ammonium hydroxide in dichloromethane). The tert-butyl 2-oxohexahydropyrrolo[3,4-d]imidazole-5(1H)-carboxylate obtained was dissolved in trifluoroacetic acid/dichloromethane (2 mL, 1:1) and eluted through Strata-X-C™ ion exchange resin. The desired product was eluted with a solution of concentrated ammonium hydroxide in methanol (5%) and evaporated under reduced pressure.

reactant | tert-butyl cis-3,4-diaminopyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@@H]1N)C(=O)OC(C)(C)C | C9H19N3O2
reactant | triethylamine | 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.4 mL | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 2-oxohexahydropyrrolo[3,4-d]imidazole-5(1H)-carboxylate | O=C1NC2C(N1)CN(C2)C(=O)OC(C)(C)C | C10H17N3O3
